US07339073B2
In EP 58392 a procedure for the production of 5-chlorolevulinic acid ethyl ester is described that starts from succinic acid mono ethyl ester mono chloride. This compound is converted with diazo methane at −5° C. and is after that worked up by passing in hydrogen chloride. You receive so the desired compound in pure form and in a high yield but the difficult handling of explosive diazo methane makes this method for the large-scale use not suitable. The same procedure is described in PL 136454. Instead of the succinic acid mono ethyl ester mono chloride the respective methyl ester derivative is used and results in the formation of 5-chlorolevulinic acid methyl ester.

reactant | diazo methane | [N+](=[N-])=C | CH2N2
reactant | succinic acid mono ethyl ester mono chloride | [Cl-].C(C)OC(CCC(=O)O)=O
product | 5-chlorolevulinic acid methyl ester | COC(CCC(=O)CCl)=O | C6H9ClO3
